US05840732
vii) Synthesis of 5-butylidene-3-[5-(imidazo[1,2-a]pyridin-5-ylthio)-3,3-dimethylpentyl]thiazolidine-2,4-dione hydrochloride
To a solution of 310 mg (0.74 mmol) of 5-butylidene-3-[5-(imidazo[1,2-a]pyridin-5-ylthio)-3,3-dimethylpentyl]thiazolidine-2,4-dione in 5 ml methanol, 0.01 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 320 mg (95.0%, light yellow solid) of the desired product.

reactant | 5-butylidene-3-[5-(imidazo[1,2-a]pyridin-5-ylthio)-3,3-dimethylpentyl]thiazolidine-2,4-dione | 0.74 mmol, 310 mg | C(CCC)=C1C(N(C(S1)=O)CCC(CCSC1=CC=CC=2N1C=CN2)(C)C)=O | C21H27N3O2S2
reactant | hydrochloric acid | 0.01 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 5-butylidene-3-[5-(imidazo[1,2-a]pyridin-5-ylthio)-3,3-dimethylpentyl]thiazolidine-2,4-dione hydrochloride | Cl.C(CCC)=C1C(N(C(S1)=O)CCC(CCSC1=CC=CC=2N1C=CN2)(C)C)=O | InChI=1S/C21H27N3O2S2.ClH/c1-4-5-7-16-19(25)24(20(26)28-16)13-10-21(2,3)11-15-27-18-9-6-8-17-22-12-14-23(17)18;/h6-9,12,14H,4-5,10-11,13,15H2,1-3H3;1H
